US05134111
(d) Preparation of 5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthalenecarbaldehyde
324 g of 5-ethyl-4-hydroxy-3-methoxy-1-naphthalenecarbaldehyde was dissolved in 1 liter of N,N-dimethylformaldehyde, to which 68 g of 60% sodium hydride was gently added under ice-cooling conditions. After agitation for 10 minutes, 128 ml of chloromethyl methyl ether was gradually added so that the reaction temperature did not exceed 15° C. After agitation at room temperature for 20 minutes, the reaction solution was poured into iced water and extracted with ethyl acetate. The resultant organic phase was washed with a saturated saline solution and dried with anhydrous magnesium sulfate. The solvent was distilled off and the resultant residue was purified by silica gel column chromatography (5% ethyl acetate/hexane) to obtain 288 g of the captioned compound as a brown oily substance.

reactant | 5-ethyl-4-hydroxy-3-methoxy-1-naphthalenecarbaldehyde | 324 g | C(C)C1=C2C(=C(C=C(C2=CC=C1)C=O)OC)O | C14H14O3
reactant | sodium hydride | 68 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 128 ml | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | N,N-dimethylformaldehyde | 1 liter | CN(C)C=O | C3H7NO
product | 5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthalenecarbaldehyde | 288 g | C(C)C1=C2C(=C(C=C(C2=CC=C1)C=O)OC)OCOC | C16H18O4
